US07375131B2
c) 5-Bromo-2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic Acid Amide
N-Bromosuccinimide (1.56 g, 8.8 mmol) was added to a solution of 2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic acid amide (2.9 g, 8.8 mmol) in acetic acid (30 mL) and chloroform (10 mL) at room temperature. The resulting solution was stirred under nitrogen with an aliquot was taken for LC-MS every 10 min. After 30 min., the LC-MS showed no remaining starting material. Diethyl ether (80 mL) was added to the solution and the resulting precipitate was filtered and dried under vacuum to give the above titled compound as a light brown solid (3.5 g, 8.55 mmol, 97% yield).

reactant | N-Bromosuccinimide | 8.8 mmol, 1.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic acid amide | 8.8 mmol, 2.9 g | ClC(C(=O)NC(NC=1SC=CC1C(=O)N)=O)(Cl)Cl | C8H6Cl3N3O3S
reactant | Diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic Acid Amide | 8.55 mmol, 3.5 g, 97% yield | BrC1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)N | C8H5BrCl3N3O3S
